US07176306B2
Synthesis of 2-[4-[2-(5-chloro-7-isopropyl-4-methylbenzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-[2,4-bis(pyrrolidin-1-yl)-6-methylpyridin-3-yl]acetamide
The reaction and treatments of Example 12 were repeated, except that 2-[4-(2-hydroxyethyl)piperazin-1-yl]-N-[2,4-bis(methylthio)-6-methylpyridin-3-yl]acetamide was replaced by 2-[4-(2-hydroxyethyl)piperazin-1-yl]-N-[2,4-bis(pyrrolidin-1-yl)-6-methyl-3-pyridyl]acetamide, and 2-mercaptobenzimidazole was replaced by 2-mercapto-5-chloro-7-isopropyl-4-methylbenzoxazole, to thereby yield the title compound as a pale yellow oil.

reactant | 2-[4-(2-hydroxyethyl)piperazin-1-yl]-N-[2,4-bis(methylthio)-6-methylpyridin-3-yl]acetamide | OCCN1CCN(CC1)CC(=O)NC=1C(=NC(=CC1SC)C)SC | C16H26N4O2S2
reactant | 2-[4-(2-hydroxyethyl)piperazin-1-yl]-N-[2,4-bis(pyrrolidin-1-yl)-6-methyl-3-pyridyl]acetamide | OCCN1CCN(CC1)CC(=O)NC=1C(=NC(=CC1N1CCCC1)C)N1CCCC1 | C22H36N6O2
reactant | 2-mercaptobenzimidazole | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | 2-mercapto-5-chloro-7-isopropyl-4-methylbenzoxazole | SC=1OC2=C(N1)C(=C(C=C2C(C)C)Cl)C | C11H12ClNOS
product | 2-[4-[2-(5-chloro-7-isopropyl-4-methylbenzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-[2,4-bis(pyrrolidin-1-yl)-6-methylpyridin-3-yl]acetamide | ClC=1C=C(C2=C(N=C(O2)SCCN2CCN(CC2)CC(=O)NC=2C(=NC(=CC2N2CCCC2)C)N2CCCC2)C1C)C(C)C | C33H46ClN7O2S
